US04948795
To a mixture solution of 2-(3-pyridyl)thiazolidine-4-carboxylic acid 1.7 g, 1-[3-(3-pyridyl)propyl]piperazine 1.56 g, 1-hydroxy-benzotriazole 1.3 g and N,N-dimethylformamide 20 ml was added dicyclohexylcarbodiimide 1.67 g under ice-cooling, and the mixture stirred overnight at room temperature. Ethyl acetate 50 ml was added, the precipitated dicyclohexylurea filtered off, water 30 ml added to the filtrate, the resultant solution basified with sodium hydrogen carbonate and transferred into a separating funnel. The aqueous layer was washed with ethyl acetate, the washings combined with the ethyl acetate layer, and the resultant ethyl acetate solution washed with water and saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with a mixture solution of ethyl acetate - methanol (4:1) to give 860 mg of oily 1-[3-(3-pyridyl)propyl]-4-[2-(3-pyridyl)thiazolidine-4-ylcarbonyl]piperazine. This product was dissolved in ethanol 8 ml and after addition to stand to yield crystals. The crystals were filtered off and dried to give 580 mg of 1-[3-(3-pyridyl)propyl-4-[2-(3-pyridyl)thiazolidine-4-ylcarbonyl]piperazine.fumarate.

reactant | 2-(3-pyridyl)thiazolidine-4-carboxylic acid | 1.7 g | N1=CC(=CC=C1)C1SCC(N1)C(=O)O | C9H10N2O2S
reactant | 1-[3-(3-pyridyl)propyl]piperazine | 1.56 g | N1=CC(=CC=C1)CCCN1CCNCC1 | C12H19N3
reactant | 1-hydroxy-benzotriazole | 1.3 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 1.67 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | Ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-[3-(3-pyridyl)propyl]-4-[2-(3-pyridyl)thiazolidine-4-ylcarbonyl]piperazine | 860 mg | N1=CC(=CC=C1)CCCN1CCN(CC1)C(=O)C1NC(SC1)C=1C=NC=CC1 | C21H27N5OS
